* C:\Users\Kaitlin S. Nakai\Documents\2015-2016\Senior Design\filter\Draft4.asc
XU1 N002 N006 N001 0 N006 AD822
XU2 N006 N003 N001 0 N004 AD822
V1 N005 0 SINE(0 24 60)
R1 N002 N003 100K
R2 N003 N004 100K
V2 N001 0 5
R3 N004 0 10MEG
C1 N005 P001 47µ
R4 P001 N002 10K
R6 N002 0 900
.tran 0 0.1 0 0.01
.lib C:\Users\Kaitlin S. Nakai\Downloads\ad822.cir
.backanno
.end
